US04290846
8.9 g of 2,3,5,6-tetrabromo-4-chlorophenol are dissolved in a mixture of 40 ml of 1 N methanolic KOH and 60 ml of methanol and then 4 g of Raney nickel are added to the solution. Hydrogenation is carried out with hydrogen in a shaking apparatus for 41/2 hours under normal pressure at 20° C. The uptake of hydrogen is 98% of theory. The catalyst is removed by filtration and the filtrate is concentrated. The residue is recrystallised twice from cyclohexane, affording 3.5 g of 3,5-dibromo-4-chlorophenol in the form of colourless crystals with a melting point of 121° C.

reactant | 2,3,5,6-tetrabromo-4-chlorophenol | 8.9 g | BrC1=C(C(=C(C(=C1Br)Cl)Br)Br)O | C6HBr4ClO
reactant | hydrogen | [H][H] | H2
solvent | KOH | 1 N, 40 ml | [OH-].[K+]
solvent | methanol | 60 ml | CO | CH4O
catalyst | Raney nickel | 4 g | [Ni] | Ni
product | 3,5-dibromo-4-chlorophenol | 3.5 g | BrC=1C=C(C=C(C1Cl)Br)O | C6H3Br2ClO
